US04264510
A mixture of 2 g (7.1 mmol) of 1,2,3,4,9,10-hexahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene, 1.77 g (7.8 mmol) of 2,3-dichloro-5,6-dicyano-1,4-benzoquinone and 30 ml of benzene was stirred at room temperature under nitrogen for 30 minutes. The precipitate formed was filtered off and washed with benzene, the benzene solution was washed with two 30 ml portions of saturated aqueous sodium hydrogen sulphite solution and two 30 ml portions of water, dried over sodium sulphate and concentrated to dryness. By recrystallization from diethyl ether/tetrahydrofuran/methylene chloride (4:1:2) there were obtained 1.95 g (98%) of 1,2,3,4-tetrahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene of melting point 205°-206° C. in the form of white crystals.

reactant | 1,2,3,4,9,10-hexahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene | 7.1 mmol, 2 g | COC1=C2CC=3C4C(C(C(C3CC2=C(C=C1)OC)O4)=C)=C | C18H18O3
reactant | 2,3-dichloro-5,6-dicyano-1,4-benzoquinone | 7.8 mmol, 1.77 g | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 1,2,3,4-tetrahydro-5,8-dimethoxy-2,3-dimethylene-1,4-epoxyanthracene | 1.95 g, 98% | COC1=C2C=C3C4C(C(C(C3=CC2=C(C=C1)OC)O4)=C)=C | C18H16O3
